US09422240B2
4-Cyclopropyl-3-(trifluoromethyl)benzaldehyde
With 4-chloro-3-(trifluoromethyl)benzaldehyde (1.00 g) and cyclopropylboronic acid (1.24 g) being used as starting materials, the same technique as in Reference Example 6-3 was applied to give the titled compound as a pale yellow oil (900 mg).

reactant | 4-chloro-3-(trifluoromethyl)benzaldehyde | 1.00 g | ClC1=C(C=C(C=O)C=C1)C(F)(F)F | C8H4ClF3O
reactant | cyclopropylboronic acid | 1.24 g | C1(CC1)B(O)O | C3H7BO2
product | 4-Cyclopropyl-3-(trifluoromethyl)benzaldehyde | 900 mg | C1(CC1)C1=C(C=C(C=O)C=C1)C(F)(F)F | C11H9F3O
